US04337247
(I) Production of Z-Phe-NHNHCONH2
In 5 ml of water is dissolved 2.50 g (22 mM) of NH2NHCONH2.HCl, the solution is neutralized with 3.14 ml of TEA, and 40 ml of DMF is added. To this solution are added 3.0 g of Z-Phe-OH, 2.0 g of HONB and 2.3 g of DCC. The mixture is stirred for 24 hours, the precipitated DCU filtered off, the solvent distilled off and the residue dissolved in 200 ml of ethyl acetate. The solution is washed with aqueous sodium hydrogen carbonate and water in that order and dried over anhydrous sodium sulfate. The solvent is then distilled off, the residue is treated with ether, and crystals are collected by filtration. Yield 2.7 g; m.p. 119°-121° C., [α]D21.5 -14.4° (c=1.01, DMF), Rf1 0.29.

reactant | NH2NHCONH2.HCl | 22 mM, 2.50 g | NNC(=O)N.Cl
reactant | Z-Phe-OH | 3.0 g | N([C@@H](CC1=CC=CC=C1)C(=O)O)C(=O)OCC1=CC=CC=C1 | C17H17NO4
reactant | HONB | 2.0 g | C1C2C=CC1C3C2C(=O)N(C3=O)O | C9H9NO3
reactant | DCC | 2.3 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | water | 5 ml | O | H2O
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
product | Z-Phe-NHNHCONH2 | N([C@@H](CC1=CC=CC=C1)C(=O)NNC(=O)N)C(=O)OCC1=CC=CC=C1 | C18H20N4O4
